US06255306B1
1-(2-Methyl-1H-indol-4-yl)piperazine
A mixture of 4-(2,2,2-trichloroethoxycarbonyl)-1-(2-methyl-1H-indol-4-yl)piperazine (0.70 g, 1.79 mmol, used directly from above), zinc dust (2.0 g), tetrahydrofuran (15 mL), and a solution of KH2PO4 (1.0 M, 3 mL) was vigorously stirred at room temperature under nitrogen for 6 hours. The resulting reaction mixture was filtered, and the filtrate was evaporated under reduced pressure. The residue was chromatographed using silica gel (approximately 75 g) and elution with methylene chloride/methanol/ammonium hydroxide [6:1:0.1] to afford the title compound (0.170 g, 0.79 mmol, 44%) as an off-white amorphous solid: Rf=0.2 in methylene chloride/methanol/ammonium hydroxide [6:1:0.1]; 1H NMR (CD3OD) δ7.02 (d, J=8.0 Hz, 1H), 6.94 (t, J=7.7 Hz, 1H), 6.54 (dd, J=1.0 and 7.3 Hz, 1H), 6.15 (s, 1H), 4.89 (s, exchangeable protons), 3.43 (br t, 4H), 3.40 (br t, 4H), 2.41 (s, 3H).

reactant | 4-(2,2,2-trichloroethoxycarbonyl)-1-(2-methyl-1H-indol-4-yl)piperazine | ClC(COC(=O)N1CCN(CC1)C1=C2C=C(NC2=CC=C1)C)(Cl)Cl | C16H18Cl3N3O2
reactant | KH2PO4 | 1.0 M, 3 mL | OP(=O)(O)[O-].[K+]
catalyst | zinc | 2.0 g | [Zn] | Zn
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-(2-Methyl-1H-indol-4-yl)piperazine | 0.79 mmol, 0.170 g, 44% | CC=1NC2=CC=CC(=C2C1)N1CCNCC1 | C13H17N3
